US05541202
3-{5-(3-Methoxycarbonylbenzoyl)-3-[6-(4-methoxyphenyl)-(5E)-5-hexenyloxy]-2-thienyl}-propionic acid methyl ester
804 mg of cesium carbonate is added to a solution of 430 mg of 3-[5-(3-Methoxycarbonylbenzoyl)-3-hydroxy-2-thienyl]-propionic acid methyl ester and 332 mg of (1E)-6-bromo-1-(4-methoxyphenyl)-1-hexene in 2.9 ml of dimethylformamide and the suspension is stirred for 21 hours at room temperature. The reaction mixture is filtered, the filtrate residue is washed with dichloromethane, the filtrate is concentrated by evaporation and the residue is chromatographed on silica gel with hexane. 542 mg of the title compound is obtained as colorless oil.

reactant | cesium carbonate | 804 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 3-[5-(3-Methoxycarbonylbenzoyl)-3-hydroxy-2-thienyl]-propionic acid methyl ester | 430 mg | COC(CCC=1SC(=CC1O)C(C1=CC(=CC=C1)C(=O)OC)=O)=O | C17H16O6S
reactant | (1E)-6-bromo-1-(4-methoxyphenyl)-1-hexene | 332 mg | BrCCCC/C=C/C1=CC=C(C=C1)OC | C13H17BrO
solvent | dimethylformamide | 2.9 ml | CN(C=O)C | C3H7NO
product | 3-{5-(3-Methoxycarbonylbenzoyl)-3-[6-(4-methoxyphenyl)-(5E)-5-hexenyloxy]-2-thienyl}-propionic acid methyl ester | 542 mg | COC(CCC=1SC(=CC1OCCCC\C=C\C1=CC=C(C=C1)OC)C(C1=CC(=CC=C1)C(=O)OC)=O)=O | C30H32O7S
